US09376420B2
5-(2-chloro-phenyl)-1-[3-(4-methylsulfonyl-piperazin-1-yl)-phenyl]-3-[di-(trifluoromethyl)-hydroxy-methyl]-4,5-dihydro-1H-pyrazole
The 5-(2-chloro-phenyl)-1-[3-(piperazin-1-yl)-phenyl]-3-[di-(trifluoromethyl)-hydroxy-methyl]-4,5-dihydro-1H-pyrazole hydrochloride (30.0 mg, 0.055 mmol) in the form of a yellow liquid, methanesulfonyl chloride (7.6 mg, 0.066 mmol), and triethylamine (31.0 uL, 0.221 mmol) were added to dichloromethane (1.0 mL). The reaction mixture was stirred at room temperature for 16 hours, washed with distilled water and brine, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to give 15.0 mg of the titled compound as a yellow liquid.

reactant | 5-(2-chloro-phenyl)-1-[3-(piperazin-1-yl)-phenyl]-3-[di-(trifluoromethyl)-hydroxy-methyl]-4,5-dihydro-1H-pyrazole hydrochloride | 0.055 mmol, 30.0 mg | Cl.ClC1=C(C=CC=C1)C1CC(=NN1C1=CC(=CC=C1)N1CCNCC1)C(O)(C(F)(F)F)C(F)(F)F
reactant | methanesulfonyl chloride | 0.066 mmol, 7.6 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.221 mmol, 31.0 uL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 5-(2-chloro-phenyl)-1-[3-(4-methylsulfonyl-piperazin-1-yl)-phenyl]-3-[di-(trifluoromethyl)-hydroxy-methyl]-4,5-dihydro-1H-pyrazole | 15.0 mg | ClC1=C(C=CC=C1)C1CC(=NN1C1=CC(=CC=C1)N1CCN(CC1)S(=O)(=O)C)C(O)(C(F)(F)F)C(F)(F)F | C23H23ClF6N4O3S
